US06825351B2
Following the general procedure, 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ylamine (195 mg, 1.20 mmol), CALB (59 mg), EtOAc (0.48 mL) and iPr2O (4.6 mL) were stirred for 24 hours. The conversion determined from 1H NMR by integration of the peaks at 5.05 ppm (CHNHAc) and 4.34 ppm (CHNH2) was 58%. Flash chromatography of the material on silica gel using 1:10 MeOH:CH2Cl2 followed by 1:1:4 NH4OH:MeOH:CH2Cl2 furnished the (R)-N-(6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)acetamide ((134 mg, 55%) in 45% ee (chiral GC method: 180° C. for 15 min, ramp rate of 10° C./min to 210° C., hold 10 min, (S)-(−)-enantiomerrt=17.4 min, (R)-(+)-enantiomerrt=17.1 min); [α]D=−10° (c 1.34, CHCl3); 1H NMR (CDCl3, 300 MHz) 61.09-1.31 (m, 2H), 1.80-2.03 (m, 3H), 2.06 (s, 3H), 2.24 (d, 1H, J=13.5 Hz), 2.65-2.71 (m, 1H), 2.75-2.85 (m, 1H), 4.96-5.01 (m, 1H), 7.06 (dd, 1H, J=7.0, 4.8 Hz), 7.38 (d, 1H, J=7.0 Hz), 8.11 (br s, 1H), 8.28 (d, 1H, J=4.8 Hz); 13C NMR (CDCl3) δ 24.0, 27.3, 30.1, 34.5, 34.8, 53.8, 122.8, 137.0, 137.5, 145.5, 159.2, 169.6; MS m/z: 205 (M+H+). The unreacted (S)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ylamine (was isolated in 41% yield (81 mg) and 61% ee (chiral GC, (S)-enantiomerrt=5.81 min, (R)-enantiomerrt=6.00 min); [α]D=+2° (c 1.13, CHCl3); and displayed spectra identical to the starting material: 1H NMR (CDCl3, 300 MHz) δ 1.20-1.35 (m, 1H), 1.36-1.53 (m, 1H), 1.75-2.01 (m, 4H), 2.15 (br s, 2H), 2.69-2.77 (m, 2H), 4.16 (d, 1H, J=8.7 Hz), 6.95-7.06 (m, 1H), 7.32 (d, 1H, J=6.0 Hz), 8.34 (br s, 1H).

reactant | 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ylamine | 1.20 mmol, 195 mg | N1=C2C(=CC=C1)CCCCC2N | C10H14N2
reactant | EtOAc | 0.48 mL | CCOC(=O)C | C4H8O2
reactant | iPr2O | 4.6 mL | O(C(C)C)C(C)C | C6H14O
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (R)-N-(6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)acetamide | N1=C2C(=CC=C1)CCCC[C@H]2NC(C)=O | C12H16N2O
